US05087764
Preparation of 4-ethoxy-2,3-difluorobenzaldehyde
A solution of 0.1 mol of N-formylpiperidine in 10 ml of THF is added dropwise at -60° C. to the solution of 4-ethoxy-2,3-difluorophenyllithium in THF/hexane prepared according to 1b). The mixture is then warmed to -20° C. in the course of 1 hour. Customary working up (recrystallization from petroleum ether (boiling range 40°-60° C.) gives colourless crystals, m.p. 70° C.

reactant | N-formylpiperidine | 0.1 mol | C(=O)N1CCCCC1 | C6H11NO
reactant | 4-ethoxy-2,3-difluorophenyllithium | C(C)OC1=C(C(=C(C=C1)[Li])F)F
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF hexane | C1CCOC1.CCCCCC
product | 4-ethoxy-2,3-difluorobenzaldehyde | C(C)OC1=C(C(=C(C=O)C=C1)F)F | C9H8F2O2
